US08608986B2
2,5-dibromopyridine (15.85 g, 66.0 mmol) was weighed into a reaction vessel in an argon stream and prepared into a solution by the addition of toluene (300 mL). 4-benzoylphenylboronic acid (18.86 g, 83.0 mmol), tetrakis(triphenylphosphine)palladium(0) (3.05 g, 2.6 mmol) and a 1.41 M aqueous sodium carbonate solution (100 mL) were added thereto, and the mixture was stirred at 90° C. for 8 hours. From the obtained reaction mixture, the solid was collected by filtration. This solid was washed with cold toluene and cold diethyl ether in this order. This solid was dissolved in a toluene/chloroform mixed solvent (volume ratio: 2/1) and purified by silica gel column chromatography. The eluate was evaporated to dryness, and the obtained residue was dissolved in a chloroform/ethanol mixed solvent (volume ratio: 9/2) and recrystallized several times to obtain 2-(4′-benzoylphenyl)-5-bromopyridine (3.00 g, 8.87 mmol) as a yellow solid.

reactant | 2,5-dibromopyridine | 66.0 mmol, 15.85 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4-benzoylphenylboronic acid | 83.0 mmol, 18.86 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)B(O)O | C13H11BO3
reactant | sodium carbonate | 1.41 M, 100 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.6 mmol, 3.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4′-benzoylphenyl)-5-bromopyridine | 8.87 mmol, 3.00 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C1=NC=C(C=C1)Br | C18H12BrNO
